US09260420B2
A suspension of 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one (2 g) in dichloromethane (20 ml) and methanol (20 ml) was warmed to 60° C., dissolved, and a solution of 47% hydrobromic acid (0.86 g) in methanol was added at room temperature. The precipitated crystals were collected by filtration, and dried to give 7-[4-(4-Benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one hydrobromide (2.2 g).

reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one | 2 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | C25H27N3O2S
reactant | hydrobromic acid | 0.86 g | Br | BrH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 7-[4-(4-Benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one hydrobromide | 2.2 g | Br.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | InChI=1S/C25H27N3O2S.BrH/c29-25-9-7-19-6-8-20(18-22(19)26-25)30-16-2-1-11-27-12-14-28(15-13-27)23-4-3-5-24-21(23)10-17-31-24;/h3-10,17-18H,1-2,11-16H2,(H,26,29);1H
